US08039474B2
a) 8-Chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid
A mixture of 4-oxo-cyclohexanecarboxylic acid (3.1 g, 21.7 mmol) and 2-chlorophenylhydrazine hydrochloride (4.0 g, 21.7 mmol) in glacial acetic acid (740 ml) is stirred at reflux for 3 h. The solvent is evaporated and water is added to the residue. The resulting precipitate is filtered off and dried under high vacuum to give the subtitle compound as a brownish solid (4.5 g) in 83% yield. tR (LC-5) 0.88 min; ESI-MS (positive ion): m/z 250.14 [M+H]+ (calcd 249.70 for C13H12NO2Cl). 1H-NMR (DMSO-d6): 1.75 (m, 1H); 2.14 (m, 1H); 2.62 (m, 5H); 6.90 (t, J=7.9 Hz, 1H); 7.02 (d, J=7.3 Hz, 1H); 7.30 (d, J=7.6 Hz, 1H); 7.92 (br s, 1H); 10.9 (br s, 1H).

reactant | 4-oxo-cyclohexanecarboxylic acid | 21.7 mmol, 3.1 g | O=C1CCC(CC1)C(=O)O | C7H10O3
reactant | 2-chlorophenylhydrazine hydrochloride | 21.7 mmol, 4.0 g | Cl.ClC1=C(C=CC=C1)NN
solvent | acetic acid | 740 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 4.5 g, 83% yield | ClC=1C=CC=C2C=3CC(CCC3NC12)C(=O)O | C13H12ClNO2
